### PR TITLE
[Merged by Bors] - feat(RingTheory): zero-dimensional rings

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 1]
```diff
@@ -0,0 +1,236 @@
...
+alias nilpotent_iff_mem_maximal_of_minimal := Ring.KrullDimLE.isNilpotent_iff_mem_maximalIdeal
+
+@[deprecated (since := "2024-12-20")]
+alias nilpotent_iff_not_unit_of_minimal := Ring.KrullDimLE.isNilpotent_iff_mem_nonunits
+
+end Localization.AtPrime
+
+@[deprecated (since := "2024-12-20")]
+alias PrimeSpectrum.primeSpectrum_unique_of_localization_at_minimal :=
+  PrimeSpectrum.unique_of_ringKrullDimZero
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:212]:
```suggestion
@[deprecated "Use `PrimeSpectrum.unique_of_ringKrullDimZero` with `Ring.KrullDimLE.of_isLocalization`" (since := "2024-12-20")]
alias PrimeSpectrum.primeSpectrum_unique_of_localization_at_minimal :=
  PrimeSpectrum.unique_of_ringKrullDimZero
```

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 2]
```diff
@@ -0,0 +1,236 @@
...
+
+theorem Ring.KrullDimLE.isNilpotent_iff_mem_nonunits [IsLocalRing R] {x} :
+    IsNilpotent x ↔ x ∈ nonunits R :=
+  isNilpotent_iff_mem_maximalIdeal
+
+variable (R) in
+theorem Ring.KrullDimLE.nilradical_eq_maximalIdeal [IsLocalRing R] :
+    nilradical R = IsLocalRing.maximalIdeal R :=
+  Ideal.ext fun _ ↦ isNilpotent_iff_mem_maximalIdeal
+
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:123]:
```suggestion
```

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 3]
```diff
@@ -0,0 +1,236 @@
...
+  have := ((Ring.krullDimLE_zero_and_isLocalRing_tfae S).out 0 1).mpr
+  refine (this ⟨IsLocalRing.maximalIdeal S, inferInstance, fun q hq ↦ ?_⟩).1
+  exact Subtype.ext_iff.mp <| (IsLocalization.AtPrime.orderIsoOfPrime S p).injective
+    (a₁ := ⟨q, hq⟩) (a₂ := ⟨IsLocalRing.maximalIdeal S, inferInstance⟩) (Subsingleton.elim _ _)
+
+lemma Ring.KrullDimLE.isField_of_isReduced [IsReduced R] [IsLocalRing R] : IsField R := by
+  rw [IsLocalRing.isField_iff_maximalIdeal_eq, ← nilradical_eq_maximalIdeal,
+    nilradical_eq_zero, Ideal.zero_eq_bot]
+
+instance PrimeSpectrum.unique_of_ringKrullDimZero [IsLocalRing R] : Unique (PrimeSpectrum R) :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:159]:
```suggestion
instance PrimeSpectrum.unique_of_ringKrullDimLE_zero [IsLocalRing R] : Unique (PrimeSpectrum R) :=
```

File: Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean [hunk 4]
```diff
@@ -144,36 +145,3 @@ alias LocalRing.ker_eq_maximalIdeal := IsLocalRing.ker_eq_maximalIdeal
...
-
-@[deprecated (since := "2024-11-09")]
-alias LocalRing.of_nilradical_isMaximal := IsLocalRing.of_nilradical_isMaximal
-
-/--
-Let `S` be the localization of a commutative semiring `R` at a submonoid `M` that does not
-contain 0. If the nilradical of `R` is maximal then there is a `R`-algebra isomorphism between
-`R` and `S`. -/
-noncomputable def localizationEquivSelfOfNilradicalIsMaximal [h : (nilradical R).IsMaximal]
-    (h' : (0 : R) ∉ M) [IsLocalization M S] : R ≃ₐ[R] S := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:169]: I think the `deprecated` attributes should be here and not in the `KrullDimension.Zero` file, as downstream users won't have the latter file imported, so they just get the "Unknown declaration" error.

File: Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean [hunk 5]
```diff
@@ -228,32 +228,3 @@ theorem IsLocalization.minimalPrimes_comap [IsLocalization S A] (J : Ideal A) :
...
-theorem _root_.IsLocalization.AtPrime.prime_unique_of_minimal {S} [CommSemiring S] [Algebra R S]
-    [IsLocalization.AtPrime S I] {J K : Ideal S} [J.IsPrime] [K.IsPrime] : J = K :=
-  haveI : Subsingleton {i : Ideal R // i.IsPrime ∧ i ≤ I} := ⟨fun i₁ i₂ ↦ Subtype.ext <| by
-    rw [minimalPrimes_eq_minimals, Set.mem_setOf] at hMin
-    rw [hMin.eq_of_le i₁.2.1 i₁.2.2, hMin.eq_of_le i₂.2.1 i₂.2.2]⟩
-  Subtype.ext_iff.mp <| (IsLocalization.AtPrime.orderIsoOfPrime S I).injective
-    (a₁ := ⟨J, ‹_›⟩) (a₂ := ⟨K, ‹_›⟩) (Subsingleton.elim _ _)
-
-theorem prime_unique_of_minimal (J : Ideal (Localization I.primeCompl)) [J.IsPrime] :
-    J = IsLocalRing.maximalIdeal (Localization I.primeCompl) :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean:246]: Same here for the deprecation attributes.

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 6]
```diff
@@ -0,0 +1,236 @@
+/-
+Copyright (c) 2024 Andrew Yang. All rights reserved.
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:2]: It's 2025 by now ;)

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 7]
```diff
@@ -0,0 +1,236 @@
...
+-/
+
+section CommSemiring
+
+variable {R : Type*} [CommSemiring R] [Ring.KrullDimLE 0 R] (I : Ideal R)
+
+variable {I} in
+/-- Also see `Ideal.IsPrime.isMaximal` for the analogous statement for dedekind domains. -/
+lemma Ideal.IsPrime.isMaximal' (hI : I.IsPrime) : I.IsMaximal :=
+  I.isMaximal_of_isPrime
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:24]: I think this should go right after `Ideal.isMaximal_of_isPrime`.

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 8]
```diff
@@ -0,0 +1,236 @@
...
+
+lemma Ring.KrullDimLE.mem_minimalPrimes_iff {I J : Ideal R} :
+    I ∈ J.minimalPrimes ↔ I.IsPrime ∧ J ≤ I :=
+  ⟨fun H ↦ H.1, fun H ↦ ⟨H, fun _ h e ↦ (h.1.isMaximal'.eq_of_le H.1.ne_top e).ge⟩⟩
+
+lemma Ring.KrullDimLE.mem_minimalPrimes_iff_le {I J : Ideal R} [I.IsPrime] :
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:30]:
```suggestion
lemma Ring.KrullDimLE.mem_minimalPrimes_iff_le_of_isPrime {I J : Ideal R} [I.IsPrime] :
```
maybe?

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 9]
```diff
@@ -0,0 +1,236 @@
...
+
+variable {R : Type*} [CommRing R] [Ring.KrullDimLE 0 R] (I : Ideal R)
+
+lemma Ideal.jacobson_eq_radical : I.jacobson = I.radical := by
+  simp [jacobson, radical_eq_sInf, Ideal.isMaximal_iff_isPrime]
+
+instance (priority := 100) [Ring.KrullDimLE 0 R] : IsJacobsonRing R :=
+  ⟨fun I hI ↦ by rw [I.jacobson_eq_radical, hI.radical]⟩
+
+omit [Ring.KrullDimLE 0 R] in
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:176]:
```suggestion
variable {R : Type*} [CommRing R] (I : Ideal R)

lemma Ideal.jacobson_eq_radical [Ring.KrullDimLE 0 R] : I.jacobson = I.radical := by
  simp [jacobson, radical_eq_sInf, Ideal.isMaximal_iff_isPrime]

instance (priority := 100) [Ring.KrullDimLE 0 R] : IsJacobsonRing R :=
  ⟨fun I hI ↦ by rw [I.jacobson_eq_radical, hI.radical]⟩

```

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 10]
```diff
@@ -0,0 +1,236 @@
...
+import Mathlib.RingTheory.Jacobson.Ring
+import Mathlib.RingTheory.Spectrum.Prime.Topology
+
+/-!
+
+# Zero-dimensional rings
+
+We provide basic API for zero-dimensional rings.
+
+-/
```
Comment (chrisflav) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:15]: I am slightly confused about what should go in this file and what in `Mathlib.RingTheory.KrullDimension.Basic` which already has a section on zero dimensional rings with very similar looking results. What principle did you follow?

File: Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:169]: Unfortunately this gives an import increase.

File: Mathlib/RingTheory/KrullDimension/Zero.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Zero.lean:2]: Yeah but this is done last year and I kept the header.

File: Mathlib/RingTheory/KrullDimension/Zero.lean (hunk 10 above)
Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Zero.lean:15]: This is also an unfortunate thing due to import issues. I'll try to add some comments to point people in the right direction.

File: Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:169]: I was thinking that you can just add the deprecated attribute on the old `def` explaining what to import and pointing to the new declaration.

File: Mathlib/RingTheory/KrullDimension/Zero.lean (hunk 10 above)
Comment (chrisflav) [reply Mathlib/RingTheory/KrullDimension/Zero.lean:15]: Maybe all the dimension zero results from the `Basic` file can move into your file? Or does this also cause import troubles?

File: Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:169]: Yeah keeping the old defs there increases the import size.

Comment (chrisflav) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:169]: Not compared to master, only compared to the current state in this branch, right?

File: Mathlib/RingTheory/KrullDimension/Zero.lean (hunk 10 above)
Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Zero.lean]: Yeah this also causes troubles.

File: Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean (hunk 4 above)
Comment (chrisflav) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:169]: In that case, I would keep the old definitions and add the deprecation attributes there. But I am happy to hear someone else's opinion on this, so thanks!

maintainer delegate?

Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:169]: Looking at `Import changes for all files`, the import difference is quite big and I personally don't think moving deprecation isn't worth the increase. But I am happy to get a third opinion on this.

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 11]
```diff
@@ -0,0 +1,230 @@
...
+section IsLocalRing
+
+omit [Ring.KrullDimLE 0 R] in
+variable (R) in
+lemma Ring.krullDimLE_zero_and_isLocalRing_tfae :
+    List.TFAE
+    [ Ring.KrullDimLE 0 R ∧ IsLocalRing R,
+      ∃! I : Ideal R, I.IsPrime,
+      ∀ x : R, IsNilpotent x ↔ ¬ IsUnit x,
+      (nilradical R).IsMaximal ] := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:58]: We could add `Subsingleton (PrimeSpectrum R)` into the mix.

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 12]
```diff
@@ -0,0 +1,230 @@
...
+    · intro e
+      obtain ⟨n, hn⟩ := (Ideal.eq_top_iff_one _).mp e
+      exact (H 0).mp .zero ((show (1 : R) = 0 by simpa using hn) ▸ isUnit_one)
+    · intro I hI
+      obtain ⟨x, hx, hx'⟩ := (SetLike.lt_iff_le_and_exists.mp hI).2
+      exact Ideal.eq_top_of_isUnit_mem _ hx (not_not.mp ((H x).not.mp hx'))
+  tfae_have 4 → 2 := by
+    intro H
+    exact ⟨_, H.isPrime, fun p (hp : p.IsPrime) ↦
+      (H.eq_of_le hp.ne_top (nilradical_le_prime p)).symm⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:76]:
```suggestion
    refine fun H ↦ ⟨fun e ↦ ?_, fun I hI ↦ ?_⟩
    · obtain ⟨n, hn⟩ := (Ideal.eq_top_iff_one _).mp e
      exact (H 0).mp .zero ((show (1 : R) = 0 by simpa using hn) ▸ isUnit_one)
    · obtain ⟨x, hx, hx'⟩ := (SetLike.lt_iff_le_and_exists.mp hI).2
      exact Ideal.eq_top_of_isUnit_mem _ hx (not_not.mp ((H x).not.mp hx'))
  tfae_have 4 → 2 := fun H ↦ ⟨_, H.isPrime, fun p (hp : p.IsPrime) ↦
    (H.eq_of_le hp.ne_top (nilradical_le_prime p)).symm⟩
```

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 13]
```diff
@@ -0,0 +1,230 @@
...
+    minimalPrimes R = { I | I.IsPrime } := by
+  ext; simp [minimalPrimes, mem_minimalPrimes_iff]
+
+variable (R) in
+lemma Ring.KrullDimLE.minimalPrimes_eq_setOf_isMaximal :
+    minimalPrimes R = { I | I.IsMaximal } := by
+  ext; simp [minimalPrimes_eq_setOf_isPrime, Ideal.isMaximal_iff_isPrime]
+
+/-- Note that the `ringKrullDim` of the trivial ring is `⊥` and not `0`. -/
+instance (priority := 100) [Subsingleton R] : Ring.KrullDimLE 0 R :=
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Zero.lean]: I kept the instance as an example. And I've added `IsLocalization.subsingleton_primeSpectrum_of_mem_minimalPrimes`.

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 14]
```diff
@@ -0,0 +1,230 @@
...
+    J = IsLocalRing.maximalIdeal R :=
+  have : ∃! I : Ideal R, I.IsPrime := ((Ring.krullDimLE_zero_and_isLocalRing_tfae R).out 0 1).mp
+    (by exact ⟨inferInstance, inferInstance⟩)
+  this.unique inferInstance inferInstance
+
+theorem Ring.KrullDimLE.isNilpotent_iff_mem_maximalIdeal [IsLocalRing R] {x} :
+    IsNilpotent x ↔ x ∈ IsLocalRing.maximalIdeal R :=
+  (Ring.krullDimLE_zero_and_isLocalRing_tfae R _
+    (List.mem_of_getElem? (i := 0) rfl) _ (List.mem_of_getElem? (i := 2) rfl)).mp
+      ⟨inferInstance, inferInstance⟩ x
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Zero.lean]: I found another approach which (I think) is better.

File: Mathlib/RingTheory/KrullDimension/Zero.lean [hunk 15]
```diff
@@ -0,0 +1,215 @@
...
+theorem Ring.KrullDimLE.of_isMaximal_nilradical [(nilradical R).IsMaximal] :
+    Ring.KrullDimLE 0 R :=
+  (((Ring.krullDimLE_zero_and_isLocalRing_tfae R).out 3 0 rfl rfl).mp ‹_›).1
+
+omit [Ring.KrullDimLE 0 R] in
+lemma Ring.KrullDimLE.of_isLocalization (p : Ideal R) (hp : p ∈ minimalPrimes R)
+    (S : Type*) [CommSemiring S] [Algebra R S] [IsLocalization.AtPrime S p (hp := hp.1.1)] :
+    Ring.KrullDimLE 0 S :=
+  have := IsLocalization.subsingleton_primeSpectrum_of_mem_minimalPrimes p hp S
+  ⟨Order.krullDim_nonpos_of_subsingleton⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/KrullDimension/Zero.lean:137]:
```suggestion
  inferInstance
```
(untested)

File: Mathlib/RingTheory/KrullDimension/Zero.lean (hunk 14 above)
[the remark this answers is not in the document]
Comment (alreadydone) [reply Mathlib/RingTheory/KrullDimension/Zero.lean]: Looks great! `rfl` is magic.

**Review by alreadydone — APPROVED** [review]

File: Mathlib/RingTheory/KrullDimension/Zero.lean (hunk 11 above)
Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Zero.lean:64]: You probably need `Nonempty (Unique (PrimeSpectrum R))` instead. I opt to not add it for now as I think `TFAE` shouldn't be end results (due to the poor elaboration problem above) but rather intermediate lemmas. And it is easier to add `Ring.KrullDimLE.subsingleton_primeSpectrum` directly.

File: Mathlib/RingTheory/KrullDimension/Zero.lean (hunk 15 above)
Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Zero.lean:137]: Sadly it doesn't. Maybe it needs the instance in your other PR.

Comment (alreadydone) [reply Mathlib/RingTheory/KrullDimension/Zero.lean:138]: I see.

File: Mathlib/RingTheory/KrullDimension/Zero.lean (hunk 11 above)
Comment (alreadydone) [reply Mathlib/RingTheory/KrullDimension/Zero.lean:64]: Indeed, I neglected nonemptiness. Nonempty ∧ Subsingleton would also work.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
